US04224443
360 ml. of tetrahydrofuran is combined with 90 gm. of crotonaldehyde and placed in an ice bath. 100 gm. of hydrogen chloride are passed into the mixture at 20°-30° C. 158 gm. of 5-chlorosalicylhydroxamic acid is added in one portion and the mixture stirred at 25°-30° C. for about two hours until the solid dissolves. The mixture is cooled in a water bath and 400 ml. of concentrated ammonium hydroxide diluted with 400 ml. of water is added with stirring. The temperature of the mixture is allowed to rise to about 50° C. during the alkali addition and the mixture is then heated on a steam bath to about 90° C. and a vacuum applied to remove as much tetrahydrofuarn as possible. A solid precipitates while heating. 400 ml. of water are added and the entire mixture is cooled to about 10° C. in an ice bath. The solid is filtered and washed with water and pulled dry. The cake is recrystallized from 800 ml. boiling isopropanol refrigerated overnight. The crystals are filtered, washed with cold isopropanol and dried at about 100° C. 136 gm. 7-chloro-2-methyl-3,3a-dihydro-2H, 9H-isoxazolo (3,2-b) (1,3) benzoxazin-9-one (m.p. 144°-148° C.) for a yield of 67% is obtained.

reactant | crotonaldehyde | C(\C=C\C)=O | C4H6O
reactant | hydrogen chloride | Cl | ClH
reactant | 5-chlorosalicylhydroxamic acid | ClC1=CC=C(C(C(=O)NO)=C1)O | C7H6ClNO3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-chloro-2-methyl-3,3a-dihydro-2H, 9H-isoxazolo (3,2-b) (1,3) benzoxazin-9-one | yield of 67% | ClC=1C=CC2=C(C(N3C(O2)CC(O3)C)=O)C1 | C11H10ClNO3
